US04622401
2-(3-Amino-5-methyl-2-pyrazolin-1-yl)pyridine
A 0.3 g. amount of sodium metal is dissolved in 100 ml. of absolute ethanol, then 5.45 g. of 2-hydrazinopyridine is added, followed by 3.35 g. of crotononitrile (mixture of cis or trans isomers). The reaction mixture is refluxed for 3 hours, then the solvent is removed in vacuo. Water is added and the solid is collected by filtration. The solid is recrystallized from dichloromethane-hexane, then acetone-hexane to give 3.1 g. of the product of the Example as yellow crystals, m.p. 154°-157° C.

reactant | sodium | [Na] | Na
reactant | 2-hydrazinopyridine | N(N)C1=NC=CC=C1 | C5H7N3
reactant | crotononitrile | C(\C=C\C)#N | C4H5N
solvent | ethanol | C(C)O | C2H6O
product | 2-(3-Amino-5-methyl-2-pyrazolin-1-yl)pyridine | NC1=NN(C(C1)C)C1=NC=CC=C1 | C9H12N4
